US06875765B2
A mixture of 27.4 g (125.6 mmol) of 2-bromo-5-nitrophenol, 26 g (188.4 mmol) potassium carbonate, and 250 mL DMF were stirred 15 min at room temperature. 16.4 mL (138 mmol) of benzyl bromide was added in one portion to the reaction mixture and the mixture was heated to 90° C. TLC analysis indicated complete reaction, so the reaction mixture was cooled to 5° C. in an ice/water bath, filtered and concentrated. 300 mL water was added to the reaction mixture and the black precipitate was filtered and air dried. The crude product was taken up in dichloromethane and purified over silica eluting with 35% hexanes in dichloromethane, to give 2-bromo-5-nitro-O-benzylphenol 35.5 g (115.2 mmol, 91.7%) as an ivory solid. 1H NMR (400 MHz) CDCl3 7.78 (s, 1H), 7.72 (s, 2H), 7.46-7.48 (m, 2H), 7.38-7.42 (m, 2H), 7.32-7.35 (1H), 5.23 (s, 2H).

reactant | 2-bromo-5-nitrophenol | 125.6 mmol, 27.4 g | BrC1=C(C=C(C=C1)[N+](=O)[O-])O | C6H4BrNO3
reactant | potassium carbonate | 188.4 mmol, 26 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 138 mmol, 16.4 mL | C(C1=CC=CC=C1)Br | C7H7Br
solvent | DMF | 250 mL | CN(C)C=O | C3H7NO
product | 2-bromo-5-nitro-O-benzylphenol | 115.2 mmol, 35.5 g, 91.7% | BrC1=C(C=C(C=C1)[N+](=O)[O-])OCC1=CC=CC=C1 | C13H10BrNO3
